US07285558B2
7-isobutyl-5-methyl-3-(1-methyl-1H-imidazol-2-yl)-2-[(5-nitro-1H-indol-3-yl)methyl]-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was made following the procedure described above, starting with 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 5-nitro-1H-indole-3-carbaldehyde, followed by 1-methyl-1H-imidazole-2-carbaldehyde. Mass: 477.19 (M+H).

reactant | 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | N(N)C1=CC(N(C(N1CC(C)C)=O)C)=O | C9H16N4O2
reactant | 5-nitro-1H-indole-3-carbaldehyde | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)C=O | C9H6N2O3
reactant | 1-methyl-1H-imidazole-2-carbaldehyde | CN1C(=NC=C1)C=O | C5H6N2O
product | 7-isobutyl-5-methyl-3-(1-methyl-1H-imidazol-2-yl)-2-[(5-nitro-1H-indol-3-yl)methyl]-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | C(C(C)C)N1C(N(C(C=2C1=NN(C2C=2N(C=CN2)C)CC2=CNC1=CC=C(C=C21)[N+](=O)[O-])=O)C)=O | C23H24N8O4
